US09371327B2
Step 3: 5-chloro-1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (103 mg, 0.29 mmol) and hexachloroethane (400 mg, 1.7 mmol) are dissolved in anhydrous THF, and then 1.0M LiHMDS in THF (1.4 mL, 1.4 mmol) is added dropwise. The reaction mixture is stirred at room temperature for an hour, and then quenched with saturated ammonium chloride aqueous solution. The mixture is purified by silica-gel column chromatography to give pure product as off-white solids (yield: 64%). MS (ESI) m/z 390.2 [M+H]+.

reactant | 1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.29 mmol, 103 mg | C(C(C)C)N1C(N(C(C=2C1=C(N(C2)CC2=CC=C(C=C2)OC)C)=O)C)=O | C20H25N3O3
reactant | hexachloroethane | 1.7 mmol, 400 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | LiHMDS | 1.0M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.4 mmol, 1.4 mL | C1CCOC1 | C4H8O
product | 5-chloro-1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | yield: 64% | ClC=1N(C(=C2N(C(N(C(C21)=O)C)=O)CC(C)C)C)CC2=CC=C(C=C2)OC | C20H24ClN3O3
